US08476300B2
6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate hydrochloride
Add a solution of hydrogen chloride in ether (1.0 M, 5.5 mL, 5.50 mmol) to a solution of 6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate (2.62 g, 4.99 mmol) and dichloromethane (20 mL). Stir the mixture for 10 minutes and then concentrate to obtain the title compound (2.8 g, 4.99 mmol).

reactant | hydrogen chloride | Cl | ClH
reactant | ether | 5.50 mmol, 1.0 M, 5.5 mL | CCOCC | C4H10O
reactant | 6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate | 4.99 mmol, 2.62 g | FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(C=C1)OCCN1CCCCC1)(F)F | C25H26F3NO6S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate hydrochloride | 4.99 mmol, 2.8 g | Cl.FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(C=C1)OCCN1CCCCC1)(F)F | InChI=1S/C25H26F3NO6S.ClH/c1-32-21-10-11-22-18(17-21)5-12-23(35-36(30,31)25(26,27)28)24(22)34-20-8-6-19(7-9-20)33-16-15-29-13-3-2-4-14-29;/h5-12,17H,2-4,13-16H2,1H3;1H
